US08110585B2
(2E)-3-(5-bromo-2-methyl-2H-indazol-4-yl)acrylonitrile
To a solution of diethyl cyanomethylphosphonate (88.0 μL, 0.544 mmol) in tetrahydrofuran (2 mL) was added 60% sodium hydride (20.1 mg, 0.502 mmol) under ice-cooling, and the mixture was stirred at 0° C. for 15 min. To the mixture was added a solution of 5-bromo-2-methyl-2H-indazole-4-carbaldehyde (100 mg, 0.418 mmol) in tetrahydrofuran (2 mL) under ice-cooling, and the mixture was stirred for 15 min. The reaction solution was diluted with saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=40/60→80/20) to give the title compound (108 m yield 98%).

reactant | diethyl cyanomethylphosphonate | 0.544 mmol, 88.0 μL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | 0.502 mmol, 20.1 mg | [H-].[Na+]
reactant | 5-bromo-2-methyl-2H-indazole-4-carbaldehyde | 0.418 mmol, 100 mg | BrC1=C(C2=CN(N=C2C=C1)C)C=O | C9H7BrN2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | (2E)-3-(5-bromo-2-methyl-2H-indazol-4-yl)acrylonitrile | yield 98% | BrC1=C(C2=CN(N=C2C=C1)C)/C=C/C#N | C11H8BrN3
